US08802713B2
0.45 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole was dissolved in 10 mL of chloroform, and 1.6 g of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for 30 minutes under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogen carbonate solution, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:1) to obtain 0.41 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole | 0.45 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F | C19H13F14N3O3S
reactant | m-chloroperbenzoic acid | 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-{1,1,2-trifluoro-2-(heptafluoropropoxy)ethoxy}pyrazole | 0.41 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)F)OC(C(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F | C19H13F14N3O4S
